US04810708
Charge a Paar bottle with 5,6-dihydro-3-hydroxy-12-phenyl-naphtho[1,2-b][1,8]naphthyridin-7(12H)-one, an equal weight of 5% Pd on carbon, and ethanol. Pressurize the bottle with hydrogen to about 50 psi, and shake the contents in a Paar apparatus at 25° C. Monitor the progress of hydrogenation by pressure changes or by thin-layer chromatography. When hydrogen uptake ceases, remove catalyst by filtration and ethanol by evaporation. Crystallize the residue to obtain 5,6,8,9,10,11-hexahydro-3-hydroxy-12-phenyl-naphtho[1,2-b][1,8]naphthyridin-7(12H)-one, m.p. >330° C. after crystallization from C2H5OH.

reactant | 5,6-dihydro-3-hydroxy-12-phenyl-naphtho[1,2-b][1,8]naphthyridin-7(12H)-one | OC1=CC=2CCC3=C(N(C4=NC=CC=C4C3=O)C3=CC=CC=C3)C2C=C1 | C22H16N2O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 5,6,8,9,10,11-hexahydro-3-hydroxy-12-phenyl-naphtho[1,2-b][1,8]naphthyridin-7(12H)-one | OC1=CC=2CCC3=C(N(C=4NCCCC4C3=O)C3=CC=CC=C3)C2C=C1 | C22H20N2O2
